US09284298B2
5-(2-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazole-3-carboxylic acid (60 mg, 0.25 mmol) was reacted in dry DCM/DMF 9:1 mixture (2 mL) with O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (44.6 mg, 0.38 mmol), EDC.HCl (73 mg, 0.38 mmol), HOBt (51.5 mg, 0.38 mmol) and DIPEA (0.087 mL, 0.51 mmol) at r.t. for 4 h. The reaction was worked up with water, NH4Cl sat. sol., NaHCO3 sat. sol. and extracted with AcOEt. The organic layer was washed with brine dried over Na2SO4, filtered and concentrated under reduced pressure. The crude was purified by silica gel flash chromatography eluting with DCM/MeOH 19/1 to provide 5-[2-(methylsulfanyl)pyrimidin-4-yl]-N-(tetrahydro-2H-pyran-2-yloxy)-1H-pyrazole-3-carboxamide 40 mg (48%) as a colorless oil.

reactant | 5-(2-methylsulfanyl-pyrimidin-4-yl)-1H-pyrazole-3-carboxylic acid | 0.25 mmol, 60 mg | CSC1=NC=CC(=N1)C1=CC(=NN1)C(=O)O | C9H8N4O2S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.38 mmol, 44.6 mg | O1C(CCCC1)ON | C5H11NO2
reactant | EDC.HCl | 0.38 mmol, 73 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.38 mmol, 51.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.51 mmol, 0.087 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM DMF | C(Cl)Cl.CN(C)C=O
solvent | water | O | H2O
product | 5-[2-(methylsulfanyl)pyrimidin-4-yl]-N-(tetrahydro-2H-pyran-2-yloxy)-1H-pyrazole-3-carboxamide | 40 mg, 48% | CSC1=NC=CC(=N1)C1=CC(=NN1)C(=O)NOC1OCCCC1 | C14H17N5O3S
